US04304918
30 grams of 3-nitro-4-hydroxyphenyl-α-methylacetic acid are dissolved in 500 ml of anhydrous ethanol, 1.5 g of 5% Pd on carbon are added, and hydrogenation is carried out at atmospheric pressure and ambient temperature. The catalyst is filtered off and the filtrate concentrated to a small volume. This is filtered, and crystallised from methanol. 24.5 g of raceme 3-amino-4-hydroxyphenyl-α-methylacetic acid are obtained, with a yield of 95%.

reactant | 3-nitro-4-hydroxyphenyl-α-methylacetic acid | 30 grams | [N+](=O)([O-])C=1C=C(C=CC1O)C(C(=O)O)C | C9H9NO5
solvent | ethanol | 500 ml | C(C)O | C2H6O
catalyst | Pd on carbon | 1.5 g | [Pd] | Pd
product | 3-amino-4-hydroxyphenyl-α-methylacetic acid | 24.5 g, yield of 95% | NC=1C=C(C=CC1O)C(C(=O)O)C | C9H11NO3
